US07288541B2
To a solution of 100 mg (0.41 mmol) of tert-butyl (1S)-1-[(1S)-2-amino-1-hydroxyethyl]pentylcarbamate & tert-butyl (1S)-1-[(1R)-2-amino-1-hydroxyethyl]pentylcarbamate and 0.070 mL (0.41 mmol) of N,N-diisopropylethylamine in 2 mL dichloromethane was added 0.050 mL (0.41 mmol) 4-morpholinecarbonyl chloride. The reaction mixture was stirred at room temperature for 18 h, diluted with dichloromethane, and washed with 1N hydrochloric acid and brine. After drying over anhydrous magnesium sulfate, the solution was concentrated under reduced pressure, and the residue was purified by silica gel chromatography eluting with ethyl acetate to afford 130 mg (89%) of tert-butyl (1S)-1-{(1S)-1-hydroxy-2-[(4-morpholinylcarbonyl)amino]ethyl}pentylcarbamate & tert-butyl (1S)-1-{(1R)-1-hydroxy-2-[(4-morpholinylcarbonyl)amino]ethyl}pentylcarbamate. 1H-NMR (300 MHz, DMSO-d6): δ 6.55–6.36 (m, 2H), 5.00–4.65 (m, 1H), 3.60-3.23 (m, 9H), 3.10–2.80 (m, 2H), 1.40–1.05 (m, 15 H), 0.87 (m, 1H); ES-LCMS m/z 382 (M+Na).

reactant | tert-butyl (1S)-1-[(1S)-2-amino-1-hydroxyethyl]pentylcarbamate | 0.41 mmol, 100 mg | NC[C@H](O)[C@H](CCCC)NC(OC(C)(C)C)=O | C12H26N2O3
reactant | tert-butyl (1S)-1-[(1R)-2-amino-1-hydroxyethyl]pentylcarbamate | NC[C@@H](O)[C@H](CCCC)NC(OC(C)(C)C)=O | C12H26N2O3
reactant | N,N-diisopropylethylamine | 0.41 mmol, 0.070 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-morpholinecarbonyl chloride | 0.41 mmol, 0.050 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | tert-butyl (1S)-1-{(1S)-1-hydroxy-2-[(4-morpholinylcarbonyl)amino]ethyl}pentylcarbamate | 130 mg, 89% | O[C@@H](CNC(=O)N1CCOCC1)[C@H](CCCC)NC(OC(C)(C)C)=O | C17H33N3O5
